US04302464
A mixture of 9.56 g. (49 mmoles) of 1-(2-hydrazino-4-pyridyl)-1-ethylenedioxyethane and 35 g. of Raney nickel in 150 ml. of absolute ethanol was shaken in a hydrogen atmosphere at an initial pressure of 3 atms. at room temperature for 4 hours. The catalyst was filtered and the filtrate concentrated to give 1-(2-amino-4-pyridyl)-1-ethylenedioxyethane as a white solid, m.p. 123°-126° C. The residual material was dissolved in 60 ml. of 2 N hydrochloric acid and heated at 75° C. for 3 hours. The mixture was cooled, neutralized with sodium bicarbonate and extracted with chloroform (30 ml.×6). The combined extracts were dried and concentrated to give a pale yellow solid, which on recrystallization from toluene gave 5.0 g. (75%) of 1-(2-amino-4-pyridyl)-1-ethanone, m.p. 133°-133.5° C.

reactant | 1-(2-hydrazino-4-pyridyl)-1-ethylenedioxyethane | 49 mmoles | N(N)C1=NC=CC(=C1)C1COCCO1 | C9H13N3O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-amino-4-pyridyl)-1-ethylenedioxyethane | NC1=NC=CC(=C1)C1COCCO1 | C9H12N2O2
